US07915424B2
N-Hydroxy-5-phenylethynyl-nicotinamidine hydrochloride
Add hydroxylamine hydrochloride (0.55 g, 7.8 mmol) to a suspension of 5-phenylethynylnicotinonitrile (0.20 g, 0.98 mmol) and potassium carbonate (0.68 g, 4.9 mmol) and heat at reflux for 2 h. Cool the reaction mixture to room temperature, filter away any solids and concentrate. Purify by silica gel chromatography, eluting with 40:60 ethyl acetate:hexanes, to obtain the free base of the title compound as a white solid. Dissolve the free base in diethyl ether, add a 1 M solution of hydrogen chloride in diethyl ether (1.1 eq) and collect the resulting precipitated solids by filtration to give the title compound (0.1 g, 37%).

reactant | hydroxylamine hydrochloride | 7.8 mmol, 0.55 g | Cl.NO
reactant | 5-phenylethynylnicotinonitrile | 0.98 mmol, 0.20 g | C1(=CC=CC=C1)C#CC=1C=NC=C(C#N)C1 | C14H8N2
reactant | potassium carbonate | 4.9 mmol, 0.68 g | C([O-])([O-])=O.[K+].[K+]
product | N-Hydroxy-5-phenylethynyl-nicotinamidine hydrochloride | Cl.ONC(C1=CN=CC(=C1)C#CC1=CC=CC=C1)=N | InChI=1S/C14H11N3O.ClH/c15-14(17-18)13-8-12(9-16-10-13)7-6-11-4-2-1-3-5-11;/h1-5,8-10,18H,(H2,15,17);1H
